US07368578B2
To a mixture of ethyl (3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (7.50 g) and toluene (300 mL) was added thionyl chloride (2.38 g), and the mixture was heated under reflux for 1 hr. After concentration of the reaction mixture, saturated aqueous sodium hydrogen carbonate was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give ethyl (3-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate as colorless crystals (7.32 g, yield 94%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 95-96° C.

reactant | ethyl (3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 7.50 g | OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C=CC2)CC(=O)OCC)C=C1)OC | C23H25NO6
reactant | thionyl chloride | 2.38 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl (3-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 7.32 g, yield 94% | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C=CC2)CC(=O)OCC)C=C1)OC | C23H24ClNO5
